Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
Suturing of head laceration
Splinting of right fourth finger

 
History of Present Illness:
HPI: Patient is ___ yo M with PMHx sig. for CAD s/p CABG in ___ 
and bipolar disorder/depression s/p ECT who had a fall yesterday 
afternoon, striking L temple/orbit on the sidewalk. Pt reports 
that he tripped over the curb on the sidewalk, falling face 
first, hitting the L side of his head. He had also hit his R 
hand on the sidewalk. Pt denies any LOC, prior or after the 
fall. Pt denied any prodromal symptoms, including 
lightheadedness, dizziness, palpitations, chest pain, SOB, 
nausea, or diaphoresis. After the fall, pt only reports mild L 
frontal soreness, rating ___. No other headaches, 
lightheadedness, nausea, vomiting, vision problems, speech 
difficulties, muscle weakness. He had 2 episodes of diarrhea 
last night.  
.  
In the ED, initial VS were: 97.1 80 187/86 16 100. His neuro 
exam was reportedly normal on presentation--A&O, joking, 
complaining of mild tenderness at site of stellate laceration on 
his L temple and R ___ finger. X-rays revealed nondisplaced 
fractured R ___ digit fracture. Head/Orbital CTs revealed left 
periorbital soft tissue swelling, no fractures, no intracranial 
injury. His laceration was sutured. While preparing an ulnar 
splint, he became hypotensive to ___ his pulse remained 
stable at ___. His hypotension resolved after 1L of NS. FAST 
exam was negative but pt was tachypneic, nervous, and then 
became altered--did not speak or follow commands. O2 sat was 
noted to be 66% on RA. ___ was in the ___. Trauma services was 
called and he was pan-scanned. Repeat head CT showed no acute 
intracranial process. CT torso had no acute pathology. He had an 
EKG that showed STD in V3-V6. Repeat EKG showed complete 
resolution. He had no chest pain. His first set of CEs were 
negative but ___ set of CEs were elevated wtih CK 129, MB 12, 
and TropT 0.16. This was discussed with Cardiology, who felt 
this was c/w demand ischemia given episode of hypotension. 
Currently his mental status is back to normal and vital signs 
are: afeb, 84, 112/87, 18, 100% on 2L. During his stay he 
received aspirin 81mg x4, acetaminophen 1000mg x1, IV dextros.  
.  
Currently, he only reports mild frontal soreness.  

 
Past Medical History:
1. Coronary artery disease s/p CABG surgery in ___ after an MI 
at ?___  
2. Bipolar affective disorder, per patient in remission.  
3. Depression, treated with ECT at ___.  
4. Breast cancer on the left side s/p resection.  
5. Seizure disorder, described as "loss of awareness" by 
patient. Last seziure ___ years ago.  
6. h/o Pulmonary edema related to Tamoxifen, per patient.  
7. Thyroid nodule.  
8. Pulmonary embolism in ___.  
9. Cataracts, b/l.  
10. Rotator cuff tear s/p surgery.  
11. s/p ccy  

 
Social History:
___
Family History:
No h/o heart disease, seizures. Family history of breast cancer. 

 
Physical Exam:
Vitals - T: 98.5, BP: 121/66, HR: 73, RR: 18, 02 sat: 100RA  
GENERAL: pleasant, alert, oriented x3, able to do MOYB, poor 
insight into his medical care  
HEENT: Large hematoma surrounding L eye, ___, EOMI without pain 
 
CARDIAC: RRR, no murmurs  
NECK: supple without LAD  
LUNG: CTAB, no crackles or wheezes  
ABDOMEN: +BS, soft, NT, ND  
EXT: No edema, faint ___ pulses  
NEURO: CNs II-XII grossly intact, muscle strength ___ 
throughout, finger to nose and heel to shin intact  

 
Pertinent Results:
Admission labs:
___ 09:00PM   WBC-11.9* RBC-4.62 HGB-14.8 HCT-42.2 MCV-92 
MCH-32.1* MCHC-35.1* RDW-13.2
___ 09:00PM   NEUTS-73.6* ___ MONOS-5.5 EOS-1.3 
BASOS-0.3
___ 09:00PM   PLT COUNT-280
___ 09:00PM   GLUCOSE-89 UREA N-14 CREAT-1.1 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-22 ANION GAP-18
___ 09:00PM   CK-MB-4 cTropnT-<0.01
___ 05:15AM   CK-MB-12* MB INDX-9.3*
___ 05:15AM   cTropnT-0.16*
___ 05:15AM   CK(CPK)-129
___ 12:45PM   CK-MB-12* MB INDX-5.5 cTropnT-0.15*
___ 09:12AM   %HbA1c-5.3
___ 05:15AM   CHOLEST-134
___ 05:15AM   TRIGLYCER-60 HDL CHOL-35 CHOL/HDL-3.8 
LDL(CALC)-87
.
Discharge labs:
___ 05:00AM BLOOD WBC-7.9 RBC-4.09* Hgb-12.7* Hct-37.9* 
MCV-93 MCH-31.0 MCHC-33.5 RDW-13.4 Plt ___
___ 05:00AM BLOOD Glucose-100 UreaN-13 Creat-1.0 Na-141 
K-4.2 Cl-108 HCO3-24 AnGap-13
___ 05:00AM BLOOD CK(CPK)-250*
___ 05:00AM BLOOD CK-MB-8 cTropnT-0.11*
.
ECG ___: sinus @ 90 with sinus arrhythmia. Borderline 
1st
degree AV delay. PR just under 200 msec.1-2 mm STD in V3-6.

ECG ___: sinus @ 71. Borderline 1st degree AV delay.
Compared to prior frmo ___, STD have resolved. 
.
Imaging:
CT HEAD W/O CONTRAST Study Date of ___  
1. Left periorbital hematoma without underlying fracture seen. 
  
2. Probable nasal bone fracture, correlation with physical 
examination is 
recommended. 
  
3. Marked cerebral atrophy worse than prior with associated 
chronic small 
vessel disease.  
.
CT ORBIT, SELLA & IAC W/O CONTRAST Study Date of ___  
1. Probable nasal bone fracture of indeterminant 
chronicity,correlation with physical examination is recommended. 

2. Left periorbital and prefrontal soft tissue swelling and 
hematoma without associated globe/intraorbital injuries or 
fractures. 
.
FINGER(S),2+VIEWS RIGHT Study Date of ___  
Mildly displaced, comminuted fracture of the fourth digit 
phalanx shaft with overlying soft tissue swelling. 
.
CT HEAD W/O CONTRAST Study Date of ___ 
1. No interval changes. No evidence of acute intracranial 
hemorrhage or 
other acute intracranial process. If clinical concern for acute 
ischemia, 
please not that MRI is more sensitive and should be considered. 
2. Probable nasal bone fracture. Correlation with physical 
examination as 
previously recommended. 
.
CT C-SPINE W/O CONTRAST Study Date of ___  
1. No acute fracture of the cervical spine. 
2. Moderate degenerative disease, worst at C5-6 and C6-7 with 
mild central 
canal narrowing and neural foraminal narrowing. If focal 
neurological 
deficits and concern for cord compression/edema, an MRI should 
be considered. 
3. Left thyroid lobe hypodensity, which could be further 
evaluated with 
ultrasound. 
.
CT TORSO
1. Right lower lobe opacity, likely atelectasis. Concomitant 
infection 
cannot be excluded. 
2. Right groin changes suggestive of prior inguinal hernia 
repair surgery.  Correlation with surgical history is 
recommended. If no history of right inguinal surgery, small 
amount of fluid noted in right inguinal region of otherwise 
unclear source. 
3. Multiple vertebral compression fractures of indeterminate 
chronicity. No large paravertebral hematoma detected. Clinical 
correlation advised.  
4. Left thyroid lobe nodule which could be further evaluated on 
ultrasound.   
5. Enlarged prostate. 
.
ECHO:
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with basal inferior 
akinesis. The remaining segments contract normally (LVEF = 50%). 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Trivial mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. No significant valvular disease seen.
 
Brief Hospital Course:
ASSESSMENT & PLAN:  
___ yo M with PMHx sig. for CAD, bipolar/depression who presents 
with fall, resulting in head laceration, R ___ digit fracture, 
experienced a hypotensive episode in the ED, now with elevated 
troponins.  
.  
# Hypotensive episode:  This occurred in the ED and has not 
recurred.  It may have been a vasovagal episode from pain, as 
patient's head laceration was just sutured and his finger was 
being splinted.  He may have been slightly dehydrated as well 
since he had 2 episodes of diarrhea the day prior to admission 
(which has since resolved) and his blood pressures responded to 
1L of NS.  He was not found to be orthostatic on floor.  No 
cardiogenic causes were found as he was ruled out for MI, had no 
events on telemetry, and ECHO showed an EF of 50%.  
.  
# Delirium:  In the ED, pt was found to have acute mental status 
changes.  It was unclear if it was related to the hypotensive 
event.  He does have a remote history of seziure disorder as 
well, which he describes as "loss of awareness."  This did not 
recur during his hospitalization.
.  
# Demand ischemia:  After his hypotensive episodes, he had an 
EKG with noted STD in V3-6, which resolved on subsequent EKGs.  
His first set of cardiac enzymes were negative, and his second 
set had a troponin T at 0.16, which was the peak.  Cardiology 
was consulted and felt that the patient had demand ischemia in 
setting of hypotensive episodes.  At no time did the patient 
have chest pain.  ECHO showed mild regional left ventricular 
systolic dysfunction with basal inferior akinesis. Cardiology 
recommended medical management, and patient was started on 
Metoprolol and Atorvastatin. He should establish Cardiology 
outpatient follow-up.  
.  
# Fall:  Patient reported that he had tripped over the curb.  He 
denies any prodromal symptoms, and it was not like his previous 
seziures.  On the floor, he was not orthostatic.  He 
demonstrated that he could ambulate without assist.  Home ___ 
will be arranged for him.  His head laceration was sutured, and 
they can be removed in ___ days.  His right fourth finger was 
found to be fractured, and this was splinted by Plastic Surgery. 
 He will need follow up in Hand Clinic on ___.
.
# Depression:  Pt appears depressed with flat affect, denies any 
worsening depression, suicidal ideation.  He was continued on 
cymbalta, zyprexa.
.
# Vertebral compression fractures:  This was seen on his CT 
scan.  He was started on calcium and vitamin D supplements.  He 
will likely need DEXA scan v. initiation of bisphosphonates as 
an outpatient.  

 
Medications on Admission:
Cymbalta 90 mg once a day  
Zyprexa 10 mg a day 
folic acid 1 mg a day  
aspirin 81 mg a day  
MVI
 
Discharge Medications:
1. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Olanzapine 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
3. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
8. Vitamin D 1,000 unit Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*2*
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).
Disp:*90 Tablet, Chewable(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Fall
Head laceration
Right fourth finger fracture
Hypotension
Demand ischemia
.
Secondary:
Coronary artery disease
Depression

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted for a fall.  You needed stitches on your head 
and a splint on your finger.  You will need to have your 
stitches removed in ___ days.  You will need to follow up with 
Hand Clinic regarding your finger fracture.

While you were in the Emergency Department, you had an episode 
of low blood pressure and confusion.  This episode stressed your 
heart but did not give you a heart attack.  You were see by 
Cardiology and started on medications to help your heart.  You 
were started on Metoprolol XL 25 mg daily and Atorvastatin 20 mg 
daily.  You should continue taking your other medications, 
including aspirin 81 mg, Cymbalta 90 mg daily, Zyprexa 10 mg 
daily, and multivitamin.  You should also taking at least 1600 
mg of calcium and 1000 units of vitamin D to help protect your 
bones.
 
Followup Instructions:
___